// Generated for: spectre
// Generated on: Dec  6 14:36:35 2019
// Design library name: CHARACTERIZATION
// Design cell name: FT
// Design view name: schematic
simulator lang=spectre
global 0
parameters WF=10u VDS1=1 NF=1 L=0.18u IDS1=1.584893192u
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/config.scs" section=default
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/param.scs" section=3s
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/bip.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/cap.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/dio.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/mos.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/photo.scs" section=tm
include "/pkg/xfab/XKIT/xh018/cadence/v8_0/spectre/v8_0_1/lpmos/res.scs" section=tm

// Library name: CHARACTERIZATION
// Cell name: FT
// View name: schematic
V1 (net10 0) vsource dc=VDS1 type=dc
I0 (0 D) isource dc=IDS1 type=dc
M0 (D G 0 0) ne w=WF l=L as=(int(((NF)-1)/2.0 )*5.4e-07+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:2)*4.8e-07)*(WF)/(NF) \
         ad=(int((NF)/2.0 )*5.4e-07+(((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*4.8e-07))*(WF)/(NF) \
         ps=(int(((NF)-1)/2.0 )*2*(5.4e-07+(WF))+((int((NF)/2)-(NF)/2.0<-0.1)?1:2)*2*(4.8e-07+(WF)))/(NF) \
         pd=(int((NF)/2.0 )*2*(5.4e-07+(WF))+((int((NF)/2.0)-(NF)/2.0<-0.1)?1:0)*2*(4.8e-07+(WF)))/(NF) \
         nrs=2.7e-07/(WF) nrd=2.7e-07/(WF) m=(1)*(NF) par1=((1)*(NF)) \
        xf_subext=0
E0 (net11 0 net5 net10) vcvs gain=1000
R1 (G net11) resistor r=10M
R0 (D net5) resistor r=10M
C1 (net7 D) capacitor c=1
C0 (net5 0) capacitor c=1
IPRB0 (0 net7) iprobe
I3 (0 G) isource mag=1 type=sine
simulatorOptions options psfversion="1.1.0" reltol=100e-6 vabstol=1e-6 \
    iabstol=1e-12 temp=27 tnom=27 homotopy=all limit=delta scalem=1.0 \
    scale=1.0 compatible=spice2 gmin=1e-12 rforce=1 maxnotes=5 maxwarns=5 \
    digits=5 cols=80 pivrel=1e-3 sensfile="../psf/sens.output" \
    checklimitdest=psf 
ac ac start=1 stop=100G dec=10 annotate=status 
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save IPRB0:in 
saveOptions options save=allpub
